US07553854B2
To the reaction mixture of (R)-2-(6-(2-chloropyridin-4-yloxy)benzo[d]thiazol-2-ylamino)-4-methylpentan-1-ol (12 mg, 31 μmol) in 400 μL of DME, 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (21 mg, 100 μmol), Pd(dppf)2Cl2 (7 mg, 8 μmol) and aq. 2M Na2CO3 (100 μL, 200 μmol) were added. The reaction mixture was stirred at 90° C. for 24 hours. The reaction mixture filtered, purified on prep HPLC and evaporated in vacuo to give (R)-4-methyl-2-(6-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)pentan-1-ol as powder (4.2 mg). ES/MS m/z 424.1 (MH+).

reactant | (R)-2-(6-(2-chloropyridin-4-yloxy)benzo[d]thiazol-2-ylamino)-4-methylpentan-1-ol | 31 μmol, 12 mg | ClC1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H](CO)CC(C)C)C=C1 | C18H20ClN3O2S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 100 μmol, 21 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 200 μmol, 2M, 100 μL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 400 μL | COCCOC | C4H10O2
catalyst | Pd(dppf)2Cl2 | 8 μmol, 7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-4-methyl-2-(6-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)pentan-1-ol | 4.2 mg | CC(C[C@H](CO)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C=2C=NN(C2)C)C | C22H25N5O2S
